US09056859B2
5-Fluoro-2-methoxy-4-(2-oxo-2-{4[(3-oxo-3,6,8,9-tetrahydro-1H-furo[3,4-f]isochromen-6-yl)methyl]piperazin-1-yl}ethyl)benzonitrile was prepared from (3-oxo-3,6,8,9-tetrahydro-1H-furo[3,4-f]isochromen-6-yl)methyl4-methylbenzenesulfonate and 5-fluoro-2-methoxy-4-[2-oxo-2-(piperazin-1-yl)ethyl]benzonitrile in an analogous fashion to that described above for the synthesis of 6-[(4-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)methyl]-8,9-dihydro-1H-furo[3,4-f]isochromen-3(6H)-one. MS m/e 480 (M+1)+.

reactant | (3-oxo-3,6,8,9-tetrahydro-1H-furo[3,4-f]isochromen-6-yl)methyl4-methylbenzenesulfonate | O=C1OCC2=C3CCOC(C3=CC=C21)COS(=O)(=O)C2=CC=C(C=C2)C | C19H18O6S
reactant | 5-fluoro-2-methoxy-4-[2-oxo-2-(piperazin-1-yl)ethyl]benzonitrile | FC=1C(=CC(=C(C#N)C1)OC)CC(N1CCNCC1)=O | C14H16FN3O2
reactant | 6-[(4-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)methyl]-8,9-dihydro-1H-furo[3,4-f]isochromen-3(6H)-one | N1(N=NN=C1)C1=CC=C(C=C1)CC(=O)N1CCN(CC1)CC1OCCC2=C3C(=CC=C12)C(OC3)=O | C25H26N6O4
product | 5-Fluoro-2-methoxy-4-(2-oxo-2-{4[(3-oxo-3,6,8,9-tetrahydro-1H-furo[3,4-f]isochromen-6-yl)methyl]piperazin-1-yl}ethyl)benzonitrile | FC=1C(=CC(=C(C#N)C1)OC)CC(N1CCN(CC1)CC1OCCC2=C3C(=CC=C12)C(OC3)=O)=O | C26H26FN3O5
